US05538976
5-[Bis (4-nitrophenyl) amino]pyrimidine
Starting compounds: 5-[(4-nitrophenyl) amino]pyrimidine and 4-fluoronitrobenzene

reactant | 5-[(4-nitrophenyl) amino]pyrimidine | [N+](=O)([O-])C1=CC=C(C=C1)NC=1C=NC=NC1 | C10H8N4O2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 5-[Bis (4-nitrophenyl) amino]pyrimidine | [N+](=O)([O-])C1=CC=C(C=C1)N(C=1C=NC=NC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H11N5O4
